US06903129B2
To a solution of 170 mg (0.5 mmol) (R)-1-[6-[(R)-2-carboxy-pyrrolidin-1-yl]-6-oxo-hexanoyl]-pyrrolidine-2-carboxylic acid and 103 ml (1 mmol) 2-chloro-N,N-dimethylacetamide in 2.5 ml dimethylformamide were added 14.9 mg (0.1 mmol) sodium iodide and 139 ml (1 mmol) triethylamine. After stirring overnight at 100° C. the solvent was distilled off, the residue was taken up with dichloromethane and extracted with water. The organic extracts were dried with sodium sulfite and the solvent was distilled off to yield 190 mg (84%) of (R)-1-{6-[(R)-2-(dimethylcarbamoyl-methoxycarbonyl)-pyrrolidin-1-yl]-6-oxo-hexanoyl}-pyrrolidine-2-carboxylic acid dimethylcarbamoyl-methyl ester as a yellow oil, MS m/e (%): 511 (M+H+, 100).

reactant | (R)-1-[6-[(R)-2-carboxy-pyrrolidin-1-yl]-6-oxo-hexanoyl]-pyrrolidine-2-carboxylic acid | 0.5 mmol, 170 mg | C(=O)(O)[C@@H]1N(CCC1)C(CCCCC(=O)N1[C@H](CCC1)C(=O)O)=O | C16H24N2O6
reactant | 2-chloro-N,N-dimethylacetamide | 1 mmol, 103 ml | ClCC(=O)N(C)C | C4H8ClNO
reactant | sodium iodide | 0.1 mmol, 14.9 mg | [I-].[Na+]
reactant | triethylamine | 1 mmol, 139 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
product | (R)-1-{6-[(R)-2-(dimethylcarbamoyl-methoxycarbonyl)-pyrrolidin-1-yl]-6-oxo-hexanoyl}-pyrrolidine-2-carboxylic acid dimethylcarbamoyl-methyl ester | 190 mg, 84% | CN(C(=O)COC(=O)[C@@H]1N(CCC1)C(CCCCC(=O)N1[C@H](CCC1)C(=O)OCC(N(C)C)=O)=O)C | C24H38N4O8
